US08729098B2
Step A: Hexahydro-1H-isoindole-1,3(2H)-dione
A solution of (3aR,7aS)-3a,4,7,7a-tetrahydro-1H-isoindole-1,3(2H)-dione (3.0 g, 19.9 mmol) and 10% Pd/C (300 mg) in MeOH (100 mL) was shaken in an H2 atmosphere (300 psi) in a Parr apparatus for 24 h. The reaction mixture was filtrated and the liquids concentrated to dryness, affording the title compound (2.6 g, 16.99 mmol), that was sued without any further purification, as a white powder.

reactant | (3aR,7aS)-3a,4,7,7a-tetrahydro-1H-isoindole-1,3(2H)-dione | 19.9 mmol, 3.0 g | C1(NC([C@@H]2CC=CC[C@H]12)=O)=O | C8H9NO2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | Hexahydro-1H-isoindole-1,3(2H)-dione | 16.99 mmol, 2.6 g | C1(NC(C2CCCCC12)=O)=O | C8H11NO2
